US08957205B2
N-[[1-[[(Phenylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinal
Under an argon atmosphere, 1.22 g (9.44 mmol) of N,N-diisopropylethylamine was added dropwise to a solution of 1.50 g (9.44 mmol) of sulfur trioxide-pyridine complex in 10 ml of anhydrous dimethyl sulfoxide and 5 ml of anhydrous methylene chloride under ice-cooling, the mixture was stirred for 15 minutes. Further, a solution of 570 mg (1.57 mmol) of N-[[1-[[(phenylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol in 3 ml of anhydrous dimethyl sulfoxide was added to the reaction solution under ice-cooling, and the mixture was stirred at the same temperature for 2 hours. The reaction solution was poured into ice water and extracted with ethyl acetate twice. The organic layer was washed with a 10% aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution, and then saturated brine, and after it was dried with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. 20 ml of diisopropyl ether was added to the residue, and the mixture was stirred at room temperature for 18 hours. The obtained crystal was collected by filtration to give 435 mg (77%) of the title compound.

reactant | N,N-diisopropylethylamine | 9.44 mmol, 1.22 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-[[1-[[(phenylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol | 1.57 mmol, 570 mg | C1(=CC=CC=C1)COC(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)CO | C20H30N2O4
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | N-[[1-[[(Phenylmethoxy)carbonyl]amino]cyclohexyl]carbonyl]-L-valinal | 435 mg, 77% | C1(=CC=CC=C1)COC(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)C=O | C20H28N2O4
